US07638515B2
3-Chloro-2-methoxybenzylcyanide
39.4 g (221.3 mmol) of NBS and 100 mg of benzoyl peroxide are added to 31.6 g (201.7 mmol) of 3-chloro-2-methoxytoluene in 500 ml of CCl4. It is refluxed over 16 hours, allowed to cool and filtered. Solvent is removed from the filtrate, and the filtrate is dissolved in 214 ml of N,N-dimethylformamide and 142 ml of water. 20.9 g (322.1 mmol) of potassium cyanide is added at 0° C. and stirred over 16 hours. The reaction mixture is diluted with water and extracted several times with tert-butyl-methyl ether. The organic phase is washed several times with saturated sodium chloride solution and dried on sodium sulfate. The solvent is removed in a vacuum and after chromatographic purification on silica gel (hexane/ethyl acetate 20%), 29.7 g of product is obtained.

reactant | NBS | 221.3 mmol, 39.4 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 3-chloro-2-methoxytoluene | 201.7 mmol, 31.6 g | ClC=1C(=C(C=CC1)C)OC | C8H9ClO
reactant | potassium cyanide | 322.1 mmol, 20.9 g | [C-]#N.[K+]
solvent | CCl4 | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | O | H2O
catalyst | benzoyl peroxide | 100 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-Chloro-2-methoxybenzylcyanide | 29.7 g | ClC=1C(=C(CC#N)C=CC1)OC | C9H8ClNO
